2148-03-12 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - START [**2148-3-11**] 06:20 PM
   - PCW: 28, CVP: 18
   - Started lasix gtt
   - 0.5mg morphine x 1
   - CPAP on home setting o/n
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-3-12**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 94 (77 - 102) bpm
   BP: 108/72(80) {83/45(67) - 121/72(87)} mmHg
   RR: 16 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 23 (15 - 23)mmHg
   PAP: (66 mmHg) / (39 mmHg)
   PCWP: 30 (28 - 30) mmHg
   SVR: 432 dynes*sec/cm5
   PVR: 219 dynes*sec/cm5
   SV: 126 mL
   Total In:
                                                                     73 mL
                                                                    194 mL
   PO:
   TF:
   IVF:
                                                                     73 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    285 mL
   Urine:
                                                                    220 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -147 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   8.1 g/dL
   113 mg/dL
   2.4 mg/dL
   26 mEq/L
   5.0 mEq/L
   48 mg/dL
   96 mEq/L
   132 mEq/L
   22.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2148-3-11**]  08:58 PM
                             [**2148-3-12**]  03:54 AM
   WBC
   6.1
   6.3
   Hct
   24.3
   22.6
   Plt
   58
   57
   Cr
   2.7
   2.4
   Glucose
   113
   113
   Other labs: PT / PTT / INR:23.9/113.7/2.3, ALT / AST:11/35, Alk Phos /
   T Bili:89/24.1, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:8.0 %,
   Eos:2.0 %, Ca++:9.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   .
   1. Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - therapeutic paracentesis on [**3-1**] (6L off) and [**3-5**] (5L off)
   - Lasix and spironolactone increased from 20 and 50 to 40 and 100 on
   [**3-6**], stopped on [**3-9**] d/t worsening renal function, continuing to hold
   through [**3-11**]
   - low-dose morphine prn for abdominal pain
   - off transplant list until pulmonary arterial hypertension is treated
   .
   2. Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.
   - diuresis as above; diuretic increased [**3-6**] and then held [**Date range (1) 6470**]
   d/t worsening renal function
   - therapeutic paracenteses and albumin as above
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   3. Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**])
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - in MICU tonight for continued diuresis (watching the creatinine) in
   preparation for possible Flolan once diuresed, swan in place
   - f/u with Pulm tomorrow (Dr [**Last Name (STitle) 885**] is following) patient to go to
   MICU [**3-11**] for ?Flolan versus more diuresis
   - per Cards fellow ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3701**]) keep Swan at 70 cm for wedge pressure
   measurement (taped in place at time of transfer from cath lab)
   .
   4. Hypothyroid:
   - continue outpatient Synthroid
   .
   5. Anemia: normocytic; felt to be due primarily to marrow suppression
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   .
   6. FEN-
   - dobhoff clogged [**3-9**]; removed [**3-10**]
   - tolerating pos, on fluid restriction d/t concern of volume overload;
   also w/ hyponatremia that is stable
   - may need dobhoff replaced (post-pyloric)
   # Proph: HSQ, ambulating and PPI
   # Diet: low protein
   # Code: FULL
   # Dispo: ICU
   ICU Care
   Nutrition: Low protein vegetarian
   Glycemic Control:
   Lines:
   PA Catheter - [**2148-3-11**] 06:20 PM
   20 Gauge - [**2148-3-11**] 06:21 PM
   Prophylaxis:
   DVT:  Boots, hep sq
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU for now

2148-03-12 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   RHC shows PVR of 231 with elevated L sided pressures. CO was 8.3 by
   Fick. Started on lasix gtt overnight.
 PA CATHETER - START [**2148-3-11**] 06:20 PM
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-3-12**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 89 (77 - 102) bpm
   BP: 101/67(75) {83/45(67) - 121/75(101)} mmHg
   RR: 14 (8 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 26 (15 - 26)mmHg
   PAP: (67 mmHg) / (40 mmHg)
   PCWP: 28 (28 - 30) mmHg
   CO/CI (Thermodilution): (11.3 L/min) / ()
   SVR: -1,154 dynes*sec/cm5
   PVR: 127 dynes*sec/cm5
   SV: 128 mL
   Total In:
                                                                     73 mL
                                                                    250 mL
   PO:
   TF:
   IVF:
                                                                     73 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    510 mL
   Urine:
                                                                    220 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -147 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   57 K/uL
   113 mg/dL
   2.4 mg/dL
   26 mEq/L
   5.0 mEq/L
   48 mg/dL
   96 mEq/L
   132 mEq/L
   22.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2148-3-11**]  08:58 PM
                             [**2148-3-12**]  03:54 AM
   WBC
   6.1
   6.3
   Hct
   24.3
   22.6
   Plt
   58
   57
   Cr
   2.7
   2.4
   Glucose
   113
   113
   Other labs: PT / PTT / INR:23.9/113.7/2.3, ALT / AST:11/35, Alk Phos /
   T Bili:89/24.1, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:8.0 %,
   Eos:2.0 %, Ca++:9.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   Plan:
   1. Pulmonary hypertension: Elevated PCWP
   -diurese 500-1L here
   -needs PA mean under 35 for a transplant
   -holding vasodilators
   -fluid restriction
   -may need PA line pulled and replaced after diuresis
   2. OSA: On CPAP at night
   3. Cirrhosis: HCV and EtOH
   -lactulose and rifaximin
   -cipro for SBP prophylaxis
   -possible paracentesis
   4. ARF: Unclear etiology
   -urine lytes
   -midodrene, avoiding octreotide
   5. anemia: normocytic
   -guiuac pos, h/o varices
   6. FEN: Tolerating pos
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PA Catheter - [**2148-3-11**] 06:20 PM
   20 Gauge - [**2148-3-11**] 06:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**First Name (STitle) 2721**]
s note as
   outlined above, and would add: 42 yo male with EtOH and Hep C cirrhosis
   with ascites and hx of hepatic encephalopathy, with liver transplant
   denied due to elevated pulmonary pressures. Minimal response to lasix
   on the floor. RHC placed in the cath lab with findings suggestive fluid
   overload-  high PWCP, PVR mildly increased. Under these circumstances,
   acute vasodilator therapy presents the risk for presenting an increased
   volume load to the LV with pulmonary edema.
   Placed on lasix gtt yesterday, will increase infusion rate.  Will
   continue to monitor Swan and re-consider flolan depending on PA numbers
   once adequately diuresed. Ascitic fluid is leaking on his
   Swan/introducer- plan to re-site.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2148-3-12**] 17:33 ------

2148-03-13 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2148-3-12**] 07:44 PM
 PA CATHETER - START [**2148-3-12**] 09:27 PM
   - pulled femoral line and placed PA catheter in RIJ
   - aggressive diuresis with lasix gtt, still 300+ at midnight
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-3-13**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 83 (81 - 100) bpm
   BP: 98/55(65) {94/53(65) - 114/75(101)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (-10 - 28)mmHg
   PAP: (62 mmHg) / (32 mmHg)
   PCWP: 21 (21 - 24) mmHg
   Total In:
                                                                  1,769 mL
                                                                    324 mL
   PO:
                                                                    360 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    541 mL
                                                                    144 mL
   Blood products:
                                                                    868 mL
   Total out:
                                                                  1,455 mL
                                                                    360 mL
   Urine:
                                                                  1,455 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    314 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Distended, protuberant
   Extremities: Right: 3+, Left: 3+, to the level of knees
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   7.2 g/dL
   116 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.5 mEq/L
   47 mg/dL
   96 mEq/L
   134 mEq/L
   20.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2148-3-11**]  08:58 PM
                             [**2148-3-12**]  03:54 AM
                             [**2148-3-12**]  05:35 PM
                             [**2148-3-13**]  04:08 AM
   WBC
   6.1
   6.3
   4.7
   Hct
   24.3
   22.6
   20.6
   Plt
   58
   57
   50
   71
   Cr
   2.7
   2.4
   2.4
   Glucose
   113
   113
   116
   Other labs: PT / PTT / INR:20.9/50.7/2.0, ALT / AST:15/33, Alk Phos / T
   Bili:99/20.0, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:8.0 %,
   Eos:2.0 %, LDH:238 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Microbiology: [**3-1**], [**2-18**]/, [**3-9**]: peritoneal fluid: NGTD
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Essentially even this
   AM.
   - Goal -[**Telephone/Fax (1) 179**] ml today
   - Lasix gtt
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off).
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - Lasix and spironolactone increased from 20 and 50 to 40 and 100 on
   [**3-6**], stopped on [**3-9**] d/t worsening renal function, continuing to hold
   through [**3-11**]
   - low-dose morphine prn for abdominal pain
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 35 for transplant
   - therapeutic paracentecis soon
   .
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.
   - diuresis as above; diuretic increased [**3-6**] and then held [**Date range (1) 6470**]
   d/t worsening renal function
   - Follow-up urine lytes
   - therapeutic paracenteses and albumin as above
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - increase Lasix gtt with goal negative 500-1000mL today
   - f/u with Pulm (Dr [**Last Name (STitle) 885**] is following) for ?Flolan versus more
   diuresis
   - Resitde Pulmonary catheter to IJ
   .
   # Hypothyroid:
   - continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Hct down to 20 this AM,
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   - transfsue this AM 1 u pRBCs
   .
   FEN-
   - dobhoff clogged [**3-9**]; removed [**3-10**]
   - tolerating pos, on fluid restriction 1200mL d/t concern of volume
   overload; also w/ hyponatremia that is stable
   - may need dobhoff replaced (post-pyloric)
   ICU Care
   Nutrition: Diet
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2148-3-11**] 06:21 PM
   PA Catheter - [**2148-3-12**] 09:27 PM
   Prophylaxis:
   DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2148-03-14 07:39:00 Physician Resident Progress Note
Chief Complaint: Liver Failure
   24 Hour Events:
   - Continued on increased Lasix gtt with Chlorothiazide 250 mg IV ONCE
   - Transfused 1u PRBC for HCT 20.6 --> 22.4 --> 23.5
   - Goal diuresis 500-1L: Achieved -1.1L
   - Liver recs: Give magnesium oxide for muscle cramps, consider CVVHD
   for fluid removal
   - 10pm PA catheter repositioned after noted to have RV waveforms;
   repositioned to PA
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2148-3-14**] 02:37 AM
   Flowsheet Data as of  [**2148-3-14**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 78 (75 - 86) bpm
   BP: 104/60(70) {96/50(62) - 114/69(79)} mmHg
   RR: 13 (11 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (12 - 25)mmHg
   PAP: (62 mmHg) / (31 mmHg)
   PCWP: 20 (0 - 26) mmHg
   Total In:
                                                                  1,537 mL
                                                                     29 mL
   PO:
                                                                    810 mL
   TF:
   IVF:
                                                                    448 mL
                                                                     29 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,630 mL
                                                                  1,020 mL
   Urine:
                                                                  2,630 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,093 mL
                                                                   -991 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula SpO2: 95%
   Physical Examination
   General Appearance: No acute distress, massive abdominal ascites
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Distended, umbilicus herniated
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   60 K/uL
   8.4 g/dL
   97 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.8 mEq/L
   46 mg/dL
   94 mEq/L
   134 mEq/L
   23.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2148-3-11**]  08:58 PM
                             [**2148-3-12**]  03:54 AM
                             [**2148-3-12**]  05:35 PM
                             [**2148-3-13**]  04:08 AM
                             [**2148-3-13**]  06:49 AM
                             [**2148-3-13**]  10:55 PM
                             [**2148-3-14**]  03:53 AM
   WBC
   6.1
   6.3
   4.7
   5.4
   Hct
   24.3
   22.6
   20.6
   20.6
   22.4
   23.5
   Plt
   58
   57
   50
   71
   60
   Cr
   2.7
   2.4
   2.4
   2.1
   Glucose
   113
   113
   116
   97
   Other labs: PT / PTT / INR:24.2/49.6/2.4, ALT / AST:15/35, Alk Phos / T
   Bili:104/23.2, Differential-Neuts:80.7 %, Lymph:9.1 %, Mono:8.0 %,
   Eos:2.0 %, LDH:268 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Essentially even this
   AM.
   - Goal -[**Telephone/Fax (1) 179**] ml today
   - PM lytes
   - Lasix gtt, uptitrate & consider Diural if needed
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off). Lasix and spironolactone increased from 20 and 50 to 40
   and 100 on [**3-6**], stopped on [**3-9**] d/t worsening renal function,
   continuing to hold through [**3-11**].  Intermittent paracentecis for
   relief.
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - low-dose morphine prn for abdominal pain  (MAX 0.5mg)
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 35 for transplant
   - New nausea/vomiting [**3-14**], may be [**1-22**] dyspepsia following breakfast,
   compazine x 1; consider tap
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.   Diuretic increased [**3-6**] and then
   held [**Date range (1) 6470**] d/t worsening renal function.  Cr improving on laxix
   gtt, may be due to ventricular interdependence.
   - diuresis as above
   - Follow-up urine lytes
   - therapeutic paracenteses and albumin as above  (possibly today if
   abdominal paint / nausea does not improve)
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - increase Lasix gtt with goal negative -1000mL+ today
   - f/u with Pulm (Dr [**Last Name (STitle) 885**] is following) for ?Flolan versus more
   diuresis
   - Pulmonary catheter to IJ [**3-12**]
   .
   # Hypothyroid:  Continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Hct down to 20 on [**3-13**] AM.
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   - transfsue 1u pRBCs [**3-13**], increased appropriately, check daily
   # Sacral Ulcer: Stage 2 noted on buttocks.
   - wound care consult [**3-14**]
   FEN-   Fluid restrict 1200mL d/t concern of volume overload;
   hyponatremia stable; may need dobhoff replaced (post-pyloric)
   ICU Care
   Glycemic Control:  ISS
   Lines:  20 Gauge - [**2148-3-11**] 06:21 PM; PA Catheter - [**2148-3-12**] 09:27
   PM
   Prophylaxis:
   DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PA Catheter - [**2148-3-12**] 09:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, No heparin products)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-03-15 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: End stage liver disease
   24 Hour Events:
   - tap, took off ~ 5 L
   - peritoneal fluid: WBC 20, RBC 333, gram stain:
   - given 25g 25% albumin x 2
   - Creat 2.5
   - Decreased lasix gtt to 7/hr given negative status
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2148-3-14**] 12:00 PM
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2148-3-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 78 (74 - 100) bpm
   BP: 99/55(64) {92/47(59) - 118/68(77)} mmHg
   RR: 16 (11 - 17) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 30)mmHg
   PAP: (54 mmHg) / (22 mmHg)
   PCWP: 22 (20 - 22) mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  1,371 mL
                                                                     22 mL
   PO:
                                                                    950 mL
   TF:
   IVF:
                                                                    221 mL
                                                                     22 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  9,990 mL
                                                                    660 mL
   Urine:
                                                                  3,990 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
                                                                  6,000 mL
   Balance:
                                                                 -8,619 mL
                                                                   -638 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula    SpO2: 90%
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   54 K/uL
   7.7 g/dL
   119 mg/dL
   2.1 mg/dL
   33 mEq/L
   3.3 mEq/L
   46 mg/dL
   91 mEq/L
   133 mEq/L
   22.4 %
   4.9 K/uL
        [image002.jpg]
                             [**2148-3-11**]  08:58 PM
                             [**2148-3-12**]  03:54 AM
                             [**2148-3-12**]  05:35 PM
                             [**2148-3-13**]  04:08 AM
                             [**2148-3-13**]  06:49 AM
                             [**2148-3-13**]  10:55 PM
                             [**2148-3-14**]  03:53 AM
                             [**2148-3-14**]  03:59 PM
                             [**2148-3-14**]  04:17 PM
                             [**2148-3-15**]  03:17 AM
   WBC
   6.1
   6.3
   4.7
   5.4
   4.9
   Hct
   24.3
   22.6
   20.6
   20.6
   22.4
   23.5
   26
   22.4
   Plt
   58
   57
   50
   71
   60
   54
   Cr
   2.7
   2.4
   2.4
   2.1
   2.5
   2.1
   Glucose
   113
   113
   116
   97
   110
   119
   Other labs: PT / PTT / INR:27.8/58.0/2.8, ALT / AST:[**10-15**], Alk Phos / T
   Bili:86/19.3, Amylase / Lipase:53/26, Differential-Neuts:80.7 %,
   Lymph:9.1 %, Mono:8.0 %, Eos:2.0 %, LDH:268 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Essentially even this
   AM.
   - Goal -[**Telephone/Fax (1) 179**] ml today
   - PM lytes
   - Lasix gtt, uptitrate & consider Diural if needed
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off). Lasix and spironolactone increased from 20 and 50 to 40
   and 100 on [**3-6**], stopped on [**3-9**] d/t worsening renal function,
   continuing to hold through [**3-11**].  Intermittent paracentecis for
   relief.
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - low-dose morphine prn for abdominal pain  (MAX 0.5mg)
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 35 for transplant
   - New nausea/vomiting [**3-14**], may be [**1-22**] dyspepsia following breakfast,
   compazine x 1; consider tap
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.   Diuretic increased [**3-6**] and then
   held [**Date range (1) 6470**] d/t worsening renal function.  Cr improving on laxix
   gtt, may be due to ventricular interdependence.
   - diuresis as above
   - Follow-up urine lytes
   - therapeutic paracenteses and albumin as above  (possibly today if
   abdominal paint / nausea does not improve)
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - increase Lasix gtt with goal negative -1000mL+ today
   - f/u with Pulm (Dr [**Last Name (STitle) 885**] is following) for ?Flolan versus more
   diuresis
   - Pulmonary catheter to IJ [**3-12**]
   .
   # Hypothyroid:  Continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Hct down to 20 on [**3-13**] AM.
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   - transfsue 1u pRBCs [**3-13**], increased appropriately, check daily
   # Sacral Ulcer: Stage 2 noted on buttocks.
   - wound care consult [**3-14**]
   FEN-   Fluid restrict 1200mL d/t concern of volume overload;
   hyponatremia stable; may need dobhoff replaced (post-pyloric)
   ICU Care
   Glycemic Control:  ISS
   Lines:  20 Gauge - [**2148-3-11**] 06:21 PM; PA Catheter - [**2148-3-12**] 09:27
   PM
   Prophylaxis:
   DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2148-3-12**] 09:27 PM

2148-03-16 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Elevated pulmonary pressure
   24 Hour Events:
   - orderd additional diuril and turned down lasix gtt, concerned about
   effects of prolonged high dose lasix.  Did not give diuril as SBP's low
   and urine output remained high
   - mean PA pressure 37, transplant will re-active at 35
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsAmoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Edema
   Gastrointestinal: Abdominal pain
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2148-3-16**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 74 (73 - 91) bpm
   BP: 102/57(68) {92/44(56) - 118/70(77)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (5 - 23)mmHg
   PAP: (46 mmHg) / (21 mmHg)
   PCWP: 22 (22 - 22) mmHg
   CO/CI (CCO): (9.39 L/min) / ()
   Total In:
                                                                  1,101 mL
                                                                    239 mL
   PO:
                                                                    860 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    241 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,730 mL
                                                                    760 mL
   Urine:
                                                                  2,730 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,629 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   58 K/uL
   8.3 g/dL
   86 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   43 mg/dL
   94 mEq/L
   132 mEq/L
   24.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2148-3-13**]  04:08 AM
                             [**2148-3-13**]  06:49 AM
                             [**2148-3-13**]  10:55 PM
                             [**2148-3-14**]  03:53 AM
                             [**2148-3-14**]  03:59 PM
                             [**2148-3-14**]  04:17 PM
                             [**2148-3-15**]  03:17 AM
                             [**2148-3-15**]  03:43 PM
                             [**2148-3-15**]  10:00 PM
                             [**2148-3-16**]  03:48 AM
   WBC
   4.7
   5.4
   4.9
   4.8
   Hct
   20.6
   20.6
   22.4
   23.5
   26
   22.4
   24.0
   Plt
   71
   60
   54
   58
   Cr
   2.4
   2.1
   2.5
   2.1
   1.8
   1.6
   Glucose
   116
   97
   110
   119
   111
   157
   86
   Other labs: PT / PTT / INR:25.9/61.4/2.6, ALT / AST:[**10-15**], Alk Phos / T
   Bili:101/18.1, Amylase / Lipase:53/26, Differential-Neuts:80.7 %,
   Lymph:9.1 %, Mono:8.0 %, Eos:2.0 %, Albumin:3.6 g/dL, LDH:268 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Essentially even this
   AM.
   - Goal -1000 ml today
   - PM lytes
   - Lasix gtt, uptitrate & consider Diural if needed
   - Daily BNP
s to see how they correlate with CVP to try to be able to
   move away from PA catheter
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off). Lasix and spironolactone increased from 20 and 50 to 40
   and 100 on [**3-6**], stopped on [**3-9**] d/t worsening renal function,
   continuing to hold through [**3-11**].  Intermittent paracentecis for
   relief.
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - low-dose morphine prn for abdominal pain  (MAX 0.5mg)
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 35 for transplant
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.   Diuretic increased [**3-6**] and then
   held [**Date range (1) 6470**] d/t worsening renal function.  Cr improving on laxix
   gtt, may be due to ventricular interdependence.
   - diuresis as above
   - Follow-up urine lytes
   - therapeutic paracenteses and albumin as above  (last [**3-14**])
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - increase Lasix gtt with goal negative -1000mL+ today
   - f/u with Pulm (Dr [**Last Name (STitle) 885**] is following) for ?Flolan versus more
   diuresis
 will hold off for now
   - Pulmonary catheter to IJ [**3-12**]
   .
   # Hypothyroid:  Continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Hct down to 20 on [**3-13**] AM.
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**] , 1
   unit [**3-13**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   - transfused 1u pRBCs [**3-13**], increased appropriately, check daily
   # Sacral Ulcer: Stage 2 noted on buttocks.
   - wound care consult [**3-14**]
   FEN-   Fluid restrict 1200mL d/t concern of volume overload;
   hyponatremia stable; renal shakes
   ICU Care
   Glycemic Control:  ISS
   Lines:  20 Gauge - [**2148-3-11**] 06:21 PM; PA Catheter - [**2148-3-12**] 09:27
   PM
   Prophylaxis:
   DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU

2148-03-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempting to find surrogate marker for PA catheter; will trend BNP,
   attempt to correlate CVP
   - Outlined PAPM, PCWP, CVP from [**Date range (1) 6609**]; no clear correlation
   - Calculated PVR = 133
   - BNP 6572
   - Blood / Peritoneal fluid with NGTD
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2148-3-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-3-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 76 (67 - 85) bpm
   BP: 107/56(68) {89/49(61) - 109/70(78)} mmHg
   RR: 15 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (7 - 20)mmHg
   PAP: (49 mmHg) / (25 mmHg)
   PCWP: 22 (22 - 23) mmHg
   CO/CI (Thermodilution): (9.25 L/min) / ()
   SVR: 389 dynes*sec/cm5
   PVR: 164 dynes*sec/cm5
   SV: 111 mL
   Total In:
                                                                  1,693 mL
                                                                    303 mL
   PO:
                                                                  1,230 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    463 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                    615 mL
   Urine:
                                                                  2,795 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,102 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   54 K/uL
   8.4 g/dL
   107 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.4 mEq/L
   39 mg/dL
   94 mEq/L
   135 mEq/L
   24.5 %
   4.6 K/uL
        [image002.jpg]
                             [**2148-3-14**]  04:17 PM
                             [**2148-3-15**]  03:17 AM
                             [**2148-3-15**]  03:43 PM
                             [**2148-3-15**]  10:00 PM
                             [**2148-3-16**]  03:48 AM
                             [**2148-3-16**]  08:00 AM
                             [**2148-3-16**]  12:00 PM
                             [**2148-3-16**]  03:58 PM
                             [**2148-3-16**]  06:00 PM
                             [**2148-3-17**]  03:17 AM
   WBC
   4.9
   4.8
   4.6
   Hct
   26
   22.4
   24.0
   24.5
   Plt
   54
   58
   54
   Cr
   2.1
   1.8
   1.6
   1.7
   1.6
   Glucose
   119
   111
   157
   86
   119
   149
   151
   142
   107
   Other labs: PT / PTT / INR:26.6/58.4/2.6, ALT / AST:10/32, Alk Phos / T
   Bili:107/18.0, Amylase / Lipase:53/26, Differential-Neuts:80.7 %,
   Lymph:9.1 %, Mono:8.0 %, Eos:2.0 %, Albumin:3.6 g/dL, LDH:238 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging:
   cxr [**3-16**]: Swan-Ganz catheter has been slightly advanced into the distal
   right pulmonary
   artery. There is no pneumothorax. Further improvement in perihilar and
   basilar atelectatic changes which have nearly resolved.
   Microbiology: [**3-14**] peritoneal fluid:  GRAM STAIN (Final [**2148-3-14**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Negative ~ I L
   yesterday. BNP today 4269 down from 6572.
   - Goal -1000 ml today
   - PM lytes
   - Lasix gtt & consider Diural if needed
   - PA pressures/wedge did not seem to correlate well with CVP
   - Daily BNP
s to see how they correlate with CVP to try to be able to
   move away from PA catheter
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off). Lasix and spironolactone increased from 20 and 50 to 40
   and 100 on [**3-6**], stopped on [**3-9**] d/t worsening renal function,
   continuing to hold through [**3-11**].  Intermittent paracentecis for
   relief.
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - low-dose morphine prn for abdominal pain  (MAX 0.5mg)
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 35 for transplant
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.   Diuretic increased [**3-6**] and then
   held [**Date range (1) 6470**] d/t worsening renal function.  Cr improving on laxix
   gtt, may be due to ventricular interdependence.
   - diuresis as above
   - Follow-up urine lytes
   - therapeutic paracenteses and albumin as above  (last [**3-14**])
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ
   - repeat right heart cath on [**3-11**] (after diuresis) showed mean PA
   pressure of 52 with wedge pressure of 28
   - goal negative -1000mL+ today
   - f/u with Pulm (Dr [**Last Name (STitle) 885**] is following) for ?Flolan versus more
   diuresis
 will hold off for now
   - Pulmonary catheter to IJ [**3-12**]
   .
   # Hypothyroid:  Continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Hct down to 20 on [**3-13**] AM.
   - s/p transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**] , 1
   unit [**3-13**]
   - guiaic positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count
   2.4
   - patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission
   - guaiac all stools
   - transfused 1u pRBCs [**3-13**], increased appropriately, check daily
   # Sacral Ulcer: Stage 2 noted on buttocks.
   - wound care consult [**3-14**]
   FEN-   Fluid restrict 1200mL d/t concern of volume overload;
   hyponatremia stable; renal shakes
   ICU Care
   Glycemic Control:  ISS
   Lines:  20 Gauge - [**2148-3-11**] 06:21 PM; PA Catheter - [**2148-3-12**] 09:27
   PM
   Prophylaxis:
   DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU
   ICU Care
   Nutrition: Fluid restriction 1200, renal shakes, low protein diet
   Glycemic Control:  ISS
   Lines:
   PA Catheter - [**2148-3-12**] 09:27 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  ICU

2148-03-18 07:22:00 Physician Resident Progress Note
Chief Complaint: Pulmonary Hypertension
   24 Hour Events:
   - BNP 4200 this AM
   - ? pull SWAN tomorrow
   - diurese, UOP slowed, uptitrated lasix gtt
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2148-3-18**] 02:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-3-18**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 72 (68 - 88) bpm
   BP: 111/63(73) {93/49(61) - 117/73(84)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (4 - 13)mmHg
   PAP: (43 mmHg) / (23 mmHg)
   PCWP: 17 (17 - 17) mmHg
   Total In:
                                                                  1,583 mL
                                                                    178 mL
   PO:
                                                                  1,170 mL
   TF:
   IVF:
                                                                    413 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,886 mL
                                                                    575 mL
   Urine:
                                                                  1,886 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -303 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   8.7 g/dL
   97 mg/dL
   1.2 mg/dL
   34 mEq/L
   3.2 mEq/L
   38 mg/dL
   91 mEq/L
   131 mEq/L
   26.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2148-3-15**]  03:43 PM
                             [**2148-3-15**]  10:00 PM
                             [**2148-3-16**]  03:48 AM
                             [**2148-3-16**]  08:00 AM
                             [**2148-3-16**]  12:00 PM
                             [**2148-3-16**]  03:58 PM
                             [**2148-3-16**]  06:00 PM
                             [**2148-3-17**]  03:17 AM
                             [**2148-3-17**]  04:05 PM
                             [**2148-3-18**]  04:20 AM
   WBC
   4.8
   4.6
   6.0
   Hct
   24.0
   24.5
   26.1
   Plt
   58
   54
   62
   Cr
   1.8
   1.6
   1.7
   1.6
   1.4
   1.2
   Glucose
   111
   157
   86
   119
   149
   151
   142
   107
   143
   97
   Other labs: PT / PTT / INR:25.3/55.5/2.5, ALT / AST:12/36, Alk Phos / T
   Bili:145/18.6, Amylase / Lipase:53/26, Differential-Neuts:80.7 %,
   Lymph:9.1 %, Mono:8.0 %, Eos:2.0 %, Albumin:3.6 g/dL, LDH:238 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   41M with history of cirrhosis secondary to EtOH + HCV, pulmonary HTN,
   severe ascites, and recurrent encephalopathy, admitted to SICU post
   aborted liver trx due to elevation in pulmonary pressures. He is now
   transferred to medicine for diuresis, treatment of acute renal failure
   and pulmonary hypertension, and transferred to MICU for diuresis while
   Swan in place, with possible consideration of Flolan therapy.
   # Volume Status: elevated left sided pressure on PA catheter, so
   suspect volume overload.  Currently on Lasix gtt. Negative ~ I L
   yesterday. BNP today 2636 down from 4269 down from 6572.
   - Goal -1000-[**2138**] ml today
   - PM lytes
   - Lasix gtt & consider Diural if needed
   - PA pressures/wedge did not seem to correlate well with CVP
   - Daily BNP
s to see how they correlate with CVP to try to be able to
   move away from PA catheter: BNP has gone from 6000 to 4000 to [**2138**].
   Follow BNP as surrogate marker of volume status once Swan pulled.
   .
   # Cirrhosis/Liver failure:  MELD score 34-36; c/b ascites,
   encephalopathy and SBP.  Therapeutic paracentesis on [**3-1**] (6L off) and
   [**3-5**] (5L off). Lasix and spironolactone increased from 20 and 50 to 40
   and 100 on [**3-6**], stopped on [**3-9**] d/t worsening renal function,
   continuing to hold through [**3-11**].  Intermittent paracentecis for
   relief.
   - continue lactulose and Rifaximin for hepatic encephalopathy
   - continue ciprofloxacin for SBP prophylaxis
   - ursodiol for elevated bilirubin/pruritis
   - low-dose morphine prn for abdominal pain  (MAX 0.5mg)
   - off transplant list until pulmonary arterial hypertension is treated;
   need PA mean of 30-35 for transplant
   #  Acute renal failure: thought to be secondary to volume overload +/-
   HRS at time of transfer from SICU.   Diuretic increased [**3-6**] and then
   held [**Date range (1) 6470**] d/t worsening renal function.  Cr improving on laxix
   gtt, may be due to ventricular interdependence.
   - diuresis as above
   - therapeutic paracenteses and albumin as above  (last [**3-14**])
   - on midodrine for renal perfusion; holding octreotide d/t concern this
   might elevate pulmonary arterial pressures
   .
   # Pulmonary hypertension:  plan at time of transfer from SICU was
   diuresis with goal to lower pulmonary pressures; it was felt at time
   that volume overload was contributing to elevated PA pressures (which
   were increased from cardiac cath in [**Month (only) 25**]).  In MICU for continued
   diuresis (watching the creatinine) in preparation for possible Flolan
   once diuresed, new swan in place in R IJ.  Repeat right heart cath on
   [**3-11**] (after diuresis) showed mean PA pressure of 52 with wedge pressure
   of 28
   - f/u with Pulm, Dr [**Last Name (STitle) 885**], continuing diruesis
   - Pulmonary catheter to IJ [**3-12**]
 plan to d/c today
   .
   # Hypothyroid:  Continue outpatient Synthroid
   .
   # Anemia: normocytic; felt to be due primarily to marrow suppression .
   Patient with h/o diverticulosis per [**2142**] colonoscopy; may need repeat
   colonoscopy during this admission.  Hct down to 20 on [**3-13**] AM.  Guaiac
   positive on [**3-10**] and [**3-11**], hapto <20, LDH WNL, retic count 2.4. S/p
   transfusion 1U PRBCs [**3-1**], [**3-5**], and [**3-8**]; 2U PRBCs on [**3-10**] , 1 unit
   [**3-13**]
   - guaiac stools
   - check daily; transfuse < 21
   # Sacral Ulcer: Stage 2 noted on buttocks.
   - wound care consult [**3-14**]
   FEN-   Fluid restrict 1200mL d/t concern of volume overload;
   hyponatremia stable; renal shakes
   Glycemic Control:  ISS
   Lines:  20 Gauge - [**2148-3-11**] 06:21 PM; PA Catheter - [**2148-3-12**] 09:27
   PM
   Prophylaxis:  DVT:  Boots, no heparin given coags
   Stress ulcer:  PPI
   Code status:  FULL
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2148-3-12**] 09:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor